US08754215B2
KR2002076486 describes a process for preparation of praziquantel by reacting phenylethylamine with chloroacetyl chloride to obtain 2-chloro-N-phenethylacetamide. The compound 2-chloro-N-phenethylacetamide is then reacted with pthalimide to give 2-pthalimido-N-phenethylacetamide, which is then treated with hydrazine monohydrate to give 2-amino-N-phenylethylacetamide. On further treatment with bromoacetal, 2-amino-N-phenylethylacetamide gives 2-[2,2-dimethoxyethyl)amino]-N-(2-phenylethyl)acetamide. This compound on further cyclization and acylation using cyclohexanoylchloride forms praziquantel.

reactant | praziquantel | C=1C=CC2=C(C1)CCN3C2CN(CC3=O)C(=O)C4CCCCC4 | C19H24N2O2
reactant | phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 2-chloro-N-phenethylacetamide | ClCC(=O)NCCC1=CC=CC=C1 | C10H12ClNO
